US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[3-(propan-2-yloxy)phenyl]thiophene-2-carboxamide
The title compound was prepared as described in Example 51A, substituting 2-(3-isopropoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane for 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole and 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide for 4-bromoaniline. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.04 (t, J=6.0 Hz, 1H), 8.49 (dd, J=7.0, 0.8 Hz, 1H), 8.19 (d, J=0.4 Hz, 1H), 7.89 (d, J=0.8 Hz, 1H), 7.86 (d, J=0.5 Hz, 1H), 7.75 (d, J=3.9 Hz, 1H), 7.52 (d, J=1.2 Hz, 1H), 7.40 (s, 1H), 7.24 (d, J=3.9 Hz, 1H), 6.85 (dd, J=7.0, 1.7 Hz, 1H), 4.48 (d, J=5.8 Hz, 2H), 4.13 (d, J=6.6 Hz, 2H), 3.09-2.83 (m, 4H), 2.47-2.40 (m, 1H), 2.14-1.96 (m, 1H), 1.88-1.69 (m, 1H), 1.69-1.54 (m, 1H), 1.37-1.14 (m, 1H).

reactant | 1-isobutyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | C(C(C)C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | 5-bromo-N-(imidazo[1,2-a]pyridin-7-ylmethyl)thiophene-2-carboxamide | BrC1=CC=C(S1)C(=O)NCC1=CC=2N(C=C1)C=CN2 | C13H10BrN3OS
reactant | 4-bromoaniline | BrC1=CC=C(N)C=C1 | C6H6BrN
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-5-[3-(propan-2-yloxy)phenyl]thiophene-2-carboxamide | N=1C=CN2C1C=C(C=C2)CNC(=O)C=2SC(=CC2)C2=CC(=CC=C2)OC(C)C | C22H21N3O2S
